US04245088
In 50 ml of water was dissolved 4.32 g of 7-phenylacetamido-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid, together with 1.50 g of 5-mercapto-1-methyl-1H-tetrazole and 1.68 g of sodium bicarbonate and the reaction was conducted at 60° C. for 50 minutes. After cooling, the reaction mixture was adjusted to pH 5.0 and washed with ethyl acetate. It was then brought down to pH 2.0 and extracted three times with ethyl acetate. The ethyl acetate solution was washed with a saturated aqueous solution of sodium chloride, treated with magnesium sulfate, filtered and distilled under reduced pressure to remove the solvent. The residue was recrystallized from ethyl acetate-ether. The procedure provided 4.29 g (yield 96.2%) of 7-phenylacetamido-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid.

reactant | 7-phenylacetamido-3-(3-oxobutyryloxy)methyl-3-cephem-4-carboxylic acid | 4.32 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C20H20N2O7S
reactant | 5-mercapto-1-methyl-1H-tetrazole | 1.50 g | SC1=NN=NN1C | C2H4N4S
reactant | sodium bicarbonate | 1.68 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
product | 7-phenylacetamido-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 4.29 g, yield 96.2% | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C18H18N6O4S2
